US07465795B2
4-Amino-7-fluoro-8-(5-fluoro-2-methoxyphenyl)-cinnoline-3-carboxylic acid propylamide
The title compound was prepared from 4-amino-7-fluoro-8-iodo-N-propylcinnoline-3-carboxamide (200.0 mg, 0.53 mmol) and 2-fluoro-5-methoxyphenyl boronic acid (181.7 mg, 1.07 mmol) according to Method A to afford a yellow crystalline solid (111.0 mg, 56%). 1H NMR (300.132 MHz, CDCl3) δ 8.49 (t, J=5.3 Hz, 1H), 7.91 (dd, J=9.3, 5.2 Hz, 1H), 7.52 (t, J=8.8 Hz, 1H), 7.16-7.07 (m, 2H), 6.98 (dd, J=9.1, 4.5 Hz, 1H), 3.70 (s, 3H), 3.44 (q, J=6.7 Hz, 2H), 1.64 (sextet, J=7.3 Hz, 2H), 0.99 (t, J=7.4 Hz, 3H). MS APCI, m/z=373 (M+H). HPLC 2.66 min.

reactant | 4-amino-7-fluoro-8-iodo-N-propylcinnoline-3-carboxamide | 0.53 mmol, 200.0 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NCCC | C12H12FIN4O
reactant | 2-fluoro-5-methoxyphenyl boronic acid | 1.07 mmol, 181.7 mg | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
product | 4-Amino-7-fluoro-8-(5-fluoro-2-methoxyphenyl)-cinnoline-3-carboxylic acid propylamide | C(CC)NC(=O)C=1N=NC2=C(C(=CC=C2C1N)F)C1=C(C=CC(=C1)F)OC | C19H18F2N4O2
